US08357705B2
N-(2-(1H-indol-3-yl)-1-(1H-tetrazol-5-yl)ethyl)-N-(4-dimethylamino-4-phenylcyclohexyl)-2,2,2-trifluoroacetamide (Example 26, non-polar diastereomer)
A solution of N-[1-Cyano-2-(1H-indol-3-yl)ethyl]-N-(4-dimethylamino-4-phenylcyclohexyl)-2,2,2-trifluoroacetamide (non-polar diastereomer) (241 mg, 0.5 mmol) in N,N-dimethylformamide (5 mL) and toluol (5 mL) was mixed with sodium azide (325 mg, 5.0 mmol) and triethylamine hydrochloride (688 mg, 5.0 mmol) and stirred for 2 d at 80° C. The solvent was then removed in a vacuum. The residue was repeatedly mixed with toluol and each time concentrated to low volume again in a vacuum. The raw product was purified by flash chromatography (37 g, 20×2.1 cm) with dichloromethane/methanol [8:2+1% NH3 (32% in H2O)].

reactant | N-[1-Cyano-2-(1H-indol-3-yl)ethyl]-N-(4-dimethylamino-4-phenylcyclohexyl)-2,2,2-trifluoroacetamide | 0.5 mmol, 241 mg | C(#N)C(CC1=CNC2=CC=CC=C12)N(C(C(F)(F)F)=O)C1CCC(CC1)(C1=CC=CC=C1)N(C)C | C27H29F3N4O
reactant | sodium azide | 5.0 mmol, 325 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 5.0 mmol, 688 mg | Cl.C(C)N(CC)CC
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | toluol | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-(1H-indol-3-yl)-1-(1H-tetrazol-5-yl)ethyl)-N-(4-dimethylamino-4-phenylcyclohexyl)-2,2,2-trifluoroacetamide | N1C=C(C2=CC=CC=C12)CC(C1=NN=NN1)N(C(C(F)(F)F)=O)C1CCC(CC1)(C1=CC=CC=C1)N(C)C | C27H30F3N7O
